US04690931
1. 2-[4-(4-Methoxybenzyl)-piperidino]-4'-chloropropiophenone
2.80 g (0.02 mol) of potassium carbonate are added to a solution of 5 g (0.02 mol) of 2-bromo-4'-chloropropiophenone and 4.15 g (0.02 mol) of 4-(4-methoxybenzyl)-piperidine in 60 ml of dry ethanol and the mixture is heated under reflux for 5 hours, with stirring, and then left to stand for 48 hours. It is left to cool and filtered, the filter cake being washed with alcohol, and the filtrate is evaporated. An orange oily residue remains, which is taken up in a mixture of water and diethyl ether. The organic phase is separated off and the aqueous phase is extracted a second time with diethyl ether. The organic phases are combined, dried and evaporated to give 7.45 g of an orange-yellow oily residue, which crystallises partially at ambient temperature and which is used as such in the subsequent reduction.

reactant | potassium carbonate | 0.02 mol, 2.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-4'-chloropropiophenone | 0.02 mol, 5 g | BrC(C(=O)C1=CC=C(C=C1)Cl)C | C9H8BrClO
reactant | 4-(4-methoxybenzyl)-piperidine | 0.02 mol, 4.15 g | COC1=CC=C(CC2CCNCC2)C=C1 | C13H19NO
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-[4-(4-Methoxybenzyl)-piperidino]-4'-chloropropiophenone | 7.45 g | COC1=CC=C(CC2CCN(CC2)C(C(=O)C2=CC=C(C=C2)Cl)C)C=C1 | C22H26ClNO2
